US05235055
N-[3-(Quinolin-7-yloxy)propyl]-2,3-dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine
2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine (1.3 g, 6.2 mmole), 7-(3-bromopropoxy)quinoline (1.53 g, 5.5 mmole), diisopropylethylamine 2.6 g, 20 mmole) and sodium iodide (5.5 g, 37 mmole) were combined in 200 ml of DMF and heated at 80° C. for 15 hours under a nitrogen atmosphere. The solvent was then removed in vacuum and replaced with 500 ml of dichloromethane. The mixture was washed with 250 ml each of saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on 250 g of silica gel using 3% methanol/dichloromethane as eluant. The product-containing fractions were combined and concentrated in vacuum and the residue (2.25 g) recrystallized from ethanol with the addition of 6 ml of 4N isopropanolic HCl to give 1.25 g of the title compound as a yellow solid dihydrochloride salt, m.p. 224°-226° C.

reactant | 2,3-Dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine | 6.2 mmole, 1.3 g | C1OC2=CC3=C(OC(CO3)CN)C=C2O1 | C10H11NO4
reactant | 7-(3-bromopropoxy)quinoline | 5.5 mmole, 1.53 g | BrCCCOC1=CC=C2C=CC=NC2=C1 | C12H12BrNO
reactant | diisopropylethylamine | 20 mmole, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 37 mmole, 5.5 g | [I-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-[3-(Quinolin-7-yloxy)propyl]-2,3-dihydro-6,7-methylenedioxy-1,4-benzodioxin-2-methanamine | 1.25 g | N1=CC=CC2=CC=C(C=C12)OCCCNCC1COC2=C(O1)C=C1C(=C2)OCO1 | C22H22N2O5
